US07064142B2
Production of 2-(4-cyano-2-pyridyl)-4,4-bis(4-fluorophenyl)-2-imidazoline
The mixture of 1,1-bis(4-fluorophenyl)-1,2-ethanediamine(153 mg) and 4-cyano-2-ethoxycarbonylpyridine(95 mg) was stirred at 180° C. for 2 hours. The obtained oily compound was purified by silica gel column chromatography (C-300; hexane:ethyl acetate=3:2) to give the objective compound (103 mg).

reactant | 1,1-bis(4-fluorophenyl)-1,2-ethanediamine | 153 mg | FC1=CC=C(C=C1)C(CN)(N)C1=CC=C(C=C1)F | C14H14F2N2
reactant | 4-cyano-2-ethoxycarbonylpyridine | 95 mg | C(#N)C1=CC(=NC=C1)C(=O)OCC | C9H8N2O2
product | 2-(4-cyano-2-pyridyl)-4,4-bis(4-fluorophenyl)-2-imidazoline | 103 mg | C(#N)C1=CC(=NC=C1)C=1NCC(N1)(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F | C21H14F2N4
